US07763608B2
To a suspension of 4-hydroxymethylimidazole II-1 (1.09 g, 11.1 mmol) in CH3CN (12 mL), SOCl2 (5 mL) was added. After being stirred at room temperature for 30 min, the suspension became clear. After stirring for additional 2 h, the solution was concentrated in vacuo to give a solid, which was then dissolved in DMF (15 mL). To the solution, NaN3 (2.16 g, 33.2 mmol) was added. After the mixture was stirred at room temperature overnight, water and EtOAc were added, then 5% aq. NaHCO3 was also added. The organic layer was separated, dried over Na2SO4, concentrated in vacuo to give 4-azidomethylimidazole as a solid (0.759 g). MS 124.1 (M+H).

reactant | 4-hydroxymethylimidazole | OCC=1N=CNC1 | C4H6N2O
reactant | SOCl2 | 5 mL | O=S(Cl)Cl | Cl2OS
reactant | NaN3 | 33.2 mmol, 2.16 g | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 12 mL | CC#N | C2H3N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 4-azidomethylimidazole | 0.759 g | N(=[N+]=[N-])CC=1N=CNC1 | C4H5N5
